US07507729B2
b) (4-Methyl-2-oxo-2H-pyridin-1-yl)-acetic acid hydrazide
As described for example 112a, (4-methyl-2-oxo-2H-pyridin-1-yl)-acetic acid ethyl ester in ethanol was reacted with hydrazine hydrate (1.2 equivalents) at rt for 72 h. The mixture was concentrated and crystallized from ethanol/diisopropylether and the compound was obtained as a white solid (yield: 94%). MS: m/e=204.3 [M+Na]+.

reactant | (4-methyl-2-oxo-2H-pyridin-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C(C=C(C=C1)C)=O)=O | C10H13NO3
reactant | hydrazine hydrate | 1.2 equivalents | O.NN
solvent | ethanol | C(C)O | C2H6O
product | (4-Methyl-2-oxo-2H-pyridin-1-yl)-acetic acid hydrazide | yield: 94% | CC1=CC(N(C=C1)CC(=O)NN)=O | C8H11N3O2
